US09290451B2
a) (S)-Ethyl 2-(5-cyclopropyl-6-(4-fluorobenzyl)picolinamido)-4-methylpentanoate
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid (Example 155 g) and (S)-ethyl 2-amino-4-methylpentanoate hydrochloride (CAN 2743-40-0) as starting materials. MS (EI): m/e=413.2 [M+H]+.

reactant | 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid | 155 g | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)O | C16H14FNO2
reactant | (S)-ethyl 2-amino-4-methylpentanoate hydrochloride | Cl.N[C@H](C(=O)OCC)CC(C)C
product | (S)-Ethyl 2-(5-cyclopropyl-6-(4-fluorobenzyl)picolinamido)-4-methylpentanoate | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)N[C@H](C(=O)OCC)CC(C)C | C24H29FN2O3
